US04066655
Diethyl {[(4-oxo-4H-1-benzopyran-3-yl)amino]methylene}propanedioate
A mixture of 3-aminochromone (8.0 g, 0.05 mole) and diethyl ethoxymethylenemalonate (17.3 g, 0.08 mole) was heated under nitrogen at 140° C. for 2.5 hrs. The reaction mixture was cooled. The product, which crystallized out was filtered off and triturated with petroleum ether. Recrystallization from ethyl acetate - absolute ethanol gave white crystals (10.3 g, 62.5%), m.p. 155°-157° C.

reactant | 3-aminochromone | 0.05 mole, 8.0 g | NC1=COC2=CC=CC=C2C1=O | C9H7NO2
reactant | diethyl ethoxymethylenemalonate | 0.08 mole, 17.3 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl {[(4-oxo-4H-1-benzopyran-3-yl)amino]methylene}propanedioate | 10.3 g, 62.5% | O=C1C(=COC2=C1C=CC=C2)NC=C(C(=O)OCC)C(=O)OCC | C17H17NO6
